US04916225
A flask provided with a stirrer is loaded with 1.23 g (3.5 mmole) of 9-[2-(2-tetrahydropyranyloxy)ethoxymethyl]-N2 -acetylguanine obtained as described in Example 3 and 20 ml of a 25 percent aqueous solution of methylamine are added. The reaction mixture is stirred at room temperature for 2 hours and evaporated in vacuum at a temperature not above 30° C. The dray residue is recrystallized from an aqueous soluton of ethyl alcohol to give 0.86 g (80 percent) of 9-[2-(2-tetrahydropyranyloxy)ethoxymethyl]guanine.

reactant | 9-[2-(2-tetrahydropyranyloxy)ethoxymethyl]-N2 -acetylguanine | 3.5 mmole, 1.23 g | O1C(CCCC1)OCCOCN1C=2N=C(NC(C2N=C1)=O)NC(C)=O | C15H21N5O5
reactant | methylamine | CN | CH5N
product | 9-[2-(2-tetrahydropyranyloxy)ethoxymethyl]guanine | 0.86 g, 80 percent | O1C(CCCC1)OCCOCN1C=2N=C(NC(C2N=C1)=O)N | C13H19N5O4
